US09315521B2
2-{[(2-ethylpyridin-3-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol hydrochloride
To a 0° C. mixture of 2-{[(2-ethylpyridin-3-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol (1.0 g, 3.8 mmol) in MeOH (15 mL) was added 4 M HCl/dioxane (4 mL, 16 mmol). The solution was evaporated and dried in vacuo, affording the title compound (1.1 g, 97% yield); 1H NMR (500 MHz, DMSO-d6): δ 1.35 (t, 3H, J=7.5 Hz), 2.21 (s, 3H), 3.22 (m, 2H), 4.59 (s, 2H), 6.12 (s, 1H), 7.88 (t, 1H, J=7.5 Hz), 8.69 (m, 21-1); M+262.

reactant | 2-{[(2-ethylpyridin-3-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol | 3.8 mmol, 1.0 g | C(C)C1=NC=CC=C1CSC1=NC(=CC(=N1)O)C | C13H15N3OS
reactant | HCl dioxane | 16 mmol, 4 M, 4 mL | Cl.O1CCOCC1
solvent | MeOH | 15 mL | CO | CH4O
product | 2-{[(2-ethylpyridin-3-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol hydrochloride | 1.1 g, 97% yield | Cl.C(C)C1=NC=CC=C1CSC1=NC(=CC(=N1)O)C | InChI=1S/C13H15N3OS.ClH/c1-3-11-10(5-4-6-14-11)8-18-13-15-9(2)7-12(17)16-13;/h4-7H,3,8H2,1-2H3,(H,15,16,17);1H
